US04285932
(a) 2-(4-Hydroxyphenyl) Acetamidine Hydrochloride
p-Hydroxybenzyl cyanide (5.0 g) was dissolved in absolute ethanol (50 ml) and the solution saturated with dry HCl gas over 4 hours at ambient temperature. After standing at 4° C. for 72 hours, dry diethyl ether (200 ml) and light petroleum (100 ml) were added and white crystals were deposited over 2 hours. The solid was isolated by filtration and reacted immediately with saturated ethanolic ammonia (300 ml) for 3 hours at ambient temperature. The reaction mixture was evaporated to dryness on a steam bath and the residue recrystallised from ethanol. Yield 4.36 g M.P. 248° C. (dec.) N.M.R. δ(Dimethylsulphoxide d6) 9.0-9.8 envelope 5H exchangeable with D2O, amidine H, hydroxyl H. 6.85+7.37 AA'BB' quartet 4H (J: 9 Hz) phenyl H; 3.70 singlet 2H benzyl H.

reactant | p-Hydroxybenzyl cyanide | 5.0 g | OC1=CC=C(CC#N)C=C1 | C8H7NO
reactant | HCl | Cl | ClH
reactant | diethyl ether | 200 ml | C(C)OCC | C4H10O
reactant | ammonia | 300 ml | N | H3N
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 2-(4-Hydroxyphenyl) Acetamidine Hydrochloride | Cl.OC1=CC=C(C=C1)CC(=N)N | InChI=1S/C8H10N2O.ClH/c9-8(10)5-6-1-3-7(11)4-2-6;/h1-4,11H,5H2,(H3,9,10);1H
